US08431563B2
A 1-L round-bottomed flask was charged with 1,1,1-trifluoro-2-(4-((2R)-2-(hydroxymethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol (42.7 g, 95 mmol), 200 mL of CH2Cl2, and triethylamine (15.18 mL, 109 mmol). After cooling to 0° C., methanesulfonyl chloride (7.75 g, 99 mmol) was added. After 5 min, another 1 equiv of triethylamine and methanesulfonyl chloride were added. The mixture was then diluted with water and extracted with CH2Cl2. The combined organics were dried (MgSO4), filtered, and concentrated. Purification by column chromatography on silica gel (0 to 50% EtOAc in hexanes) gave ((2R)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl methanesulfonate (35.0 g) as a light-yellow brittle foam.

reactant | 1,1,1-trifluoro-2-(4-((2R)-2-(hydroxymethyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)phenyl)-2-propanol | 95 mmol, 42.7 g | FC(C(C)(O)C1=CC=C(C=C1)N1[C@H](CN(CC1)S(=O)(=O)C=1SC=CC1)CO)(F)F | C18H21F3N2O4S2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
reactant | triethylamine | 109 mmol, 15.18 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 99 mmol, 7.75 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1 equiv | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
product | ((2R)-4-(2-thiophenylsulfonyl)-1-(4-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)phenyl)-2-piperazinyl)methyl methanesulfonate | 35.0 g | CS(=O)(=O)OC[C@@H]1N(CCN(C1)S(=O)(=O)C=1SC=CC1)C1=CC=C(C=C1)C(C(F)(F)F)(C)O | C19H23F3N2O6S3
